US08865736B2
5-Chloromethyl-3-thiazol-2-yl-[1,2,4]oxadiazole
Chloroacetyl Chloride (5.0 mL, 44.5 mmol) was added to N-Hydroxy-thiazole-2-carboxamidine (0.50 g, 3.49 mmol) and K2CO3 (1.0 g, 7.20 mmol). The reaction mixture was heated at 100° C. for 15 min. After the completion of the reaction mixture (TLC monitoring), water (25 mL) was added and extracted with ethyl acetate (3×50 mL). The combined organics was washed with water, brine, dried (Na2SO4), filtered and concentrated. The crude residue was purified over silica gel (230-400 M, 10% EtOAc-Hexane) to get the desired product (0.18 g, 25%) as a white solid.

reactant | Chloroacetyl Chloride | 44.5 mmol, 5.0 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | N-Hydroxy-thiazole-2-carboxamidine | 3.49 mmol, 0.50 g | ONC(=N)C=1SC=CN1 | C4H5N3OS
reactant | K2CO3 | 7.20 mmol, 1.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | water | 25 mL | O | H2O
product | 5-Chloromethyl-3-thiazol-2-yl-[1,2,4]oxadiazole | 0.18 g, 25% | ClCC1=NC(=NO1)C=1SC=CN1 | C6H4ClN3OS
